US06943183B2
2. (S)-6-[-1-(2,4-Difluoro-phenyl)-2-imidazol-1-yl-1-ethoxy]-5-(pyridin-2-ylsulfonylmethyl)-3,4-dihydro-2H-naphthalen-1-one
The title compound was prepared using the procedure of Example 10, step (b) using 6-Hydroxy-5-(pyridine-2-sulfonylmethyl)-3,4-dihydro-2H-naphthalen-1-one and (R)-1-(2,4-difluoro-phenyl)-2-Imidazol-1-yl-ethanol.

reactant | 6-Hydroxy-5-(pyridine-2-sulfonylmethyl)-3,4-dihydro-2H-naphthalen-1-one | OC=1C(=C2CCCC(C2=CC1)=O)CS(=O)(=O)C1=NC=CC=C1 | C16H15NO4S
reactant | (R)-1-(2,4-difluoro-phenyl)-2-Imidazol-1-yl-ethanol | FC1=C(C=CC(=C1)F)[C@H](CN1C=NC=C1)O | C11H10F2N2O
product | (S)-6-[-1-(2,4-Difluoro-phenyl)-2-imidazol-1-yl-1-ethoxy]-5-(pyridin-2-ylsulfonylmethyl)-3,4-dihydro-2H-naphthalen-1-one | FC1=C(C=CC(=C1)F)[C@@H](CN1C=NC=C1)OC=1C(=C2CCCC(C2=CC1)=O)CS(=O)(=O)C1=NC=CC=C1 | C27H23F2N3O4S
